US07700243B2
Preparation of N-ethyl-N-methoxymethyl-N,N-dimethylammonium tetrafluoroborate (EMOMDMBF4)
A 40.0 g quantity of the N-ethyl-N-methoxymethyl-N,N-dimethylammonium chloride prepared in Preparation Example 4 was dissolved in 40.0 g of MeOH, and 62.8 g of 30 wt % HBF4 solution in methanol was added to the solution. The mixture was heated at 130° C. under nitrogen stream. Hydrogen chloride (by-product) and excess of HBF4 and MeOH were removed, affording 49.7 g of the desired product.

reactant | N-ethyl-N-methoxymethyl-N,N-dimethylammonium chloride | [Cl-].C(C)[N+](C)(C)COC
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | MeOH | 40.0 g | CO | CH4O
product | N-ethyl-N-methoxymethyl-N,N-dimethylammonium tetrafluoroborate | 49.7 g | F[B-](F)(F)F.C(C)[N+](C)(C)COC | InChI=1S/C6H16NO.BF4/c1-5-7(2,3)6-8-4;2-1(3,4)5/h5-6H2,1-4H3;/q+1;-1
